US07462623B2
6-(3-chloropropoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-methoxyquinazoline
Using an analogous procedure to that described in Example 1, 4-chloro-6-(3-chloropropoxy)-7-methoxyquinazoline was reacted with 4-amino-5-chloro-2,3-methylenedioxypyridine to give the title compound in 58% yield; NMR Spectrum: (CDCl3) 2.4 (m, 2H), 3.8 (t, 2H), 4.05 (s, 3H), 4.35 (t, 2H), 6.15 (s, 2H), 7.05 (s, 1H), 7.2 (s, 1H), 7.3 (s, 1H), 7.75 (s, 1H), 8.7 (s, 1H); Mass Spectrum: M+H+ 423 and 425.

reactant | 4-chloro-6-(3-chloropropoxy)-7-methoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OCCCCl)OC | C12H12Cl2N2O2
reactant | 4-amino-5-chloro-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1Cl)OCO2 | C6H5ClN2O2
product | 6-(3-chloropropoxy)-4-(5-chloro-2,3-methylenedioxypyrid-4-ylamino)-7-methoxyquinazoline | 58% yield | ClCCCOC=1C=C2C(=NC=NC2=CC1OC)NC1=C2C(=NC=C1Cl)OCO2 | C18H16Cl2N4O4
